US07122674B2
Stage 2: 5-benzyloxy-1-(4-fluorobenzyl)indol-3-ylglyoxylyl chloride
A solution of 5-benzyloxy-1-(4-fluorobenzyl)indole in 200 ml of THF is cooled under a N2 atmosphere to 0° C. While stirring and cooling further, a solution of oxalyl chloride in 100 ml of THF is added dropwise in such a way that the internal temperature does not exceed 10° C. The reaction mixture is then boiled under reflux for 2 hours. The solvent is distilled out as completely as possible in vacuo at a bath temperature of 50–60° C. The crude product remains as residue and crystallizes on cooling. It is employed without further working up in the next reaction stage.

reactant | 5-benzyloxy-1-(4-fluorobenzyl)indole | C(C1=CC=CC=C1)OC=1C=C2C=CN(C2=CC1)CC1=CC=C(C=C1)F | C22H18FNO
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 5-benzyloxy-1-(4-fluorobenzyl)indol-3-ylglyoxylyl chloride | C(C1=CC=CC=C1)OC=1C=C2C(=CN(C2=CC1)CC1=CC=C(C=C1)F)C(C(=O)Cl)=O | C24H17ClFNO3
